### PR TITLE
[Merged by Bors] - feat(Topology/Algebra/Module/Spaces/ContinuousLinearMap): convert `toLinearMap₁₂` to a linear map

### PR DESCRIPTION
**Pull request by mpacholski**
Convert the projection `toLinearMap₁₂` (which strips the topology from a continuous semibilinear map) to a linear map, by showing that it preserves addition and scalar multiplication. We also rename `toLinearMap₁₂_apply` to `toLinearMap₁₂_apply_apply_apply` without deprecation so that we can have `_apply` be a different lemma.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by pechersky** [comment]
Does it make sense to upgrade `toLinearMap₁₂` to a linear map of ContinuousLinearMaps instead of having it unbundled?

**Comment by mpacholski** [comment]
@pechersky thank you for the comment! Can't say that I see a reason to have it unbundled. Shall I convert it to a linear map and update the PR?

**Comment by mpacholski** [comment]
@pechersky I converted it to a bundled linear map, and also marked it with `@[simp apply]`. Do you think it's good now?

**Comment by pechersky** [comment]
What were the new `simps` lemmas? You can check via `simps?`.

**Comment by mpacholski** [comment]
Using `simps?` shows that the generated lemma is just
```lean
@[simp] lemma toLinearMap₁₂_apply (L : E →SL[σ₁₃] F →SL[σ₂₃] G) :
  toLinearMap₁₂ L = coeLMₛₗ σ₂₃ ∘ₛₗ ↑L
```
Should we use just `@[simps]` instead of `@[simps apply]`? 

I also checked `@[simps!? apply_apply]` and it generates
```lean
@[simp] lemma toLinearMap₁₂_apply_apply (L : E →SL[σ₁₃] F →SL[σ₂₃] G) (v : E) :
  toLinearMap₁₂ L v = ↑(L v)
```

File: Mathlib/Topology/Algebra/Module/Spaces/ContinuousLinearMap.lean [hunk 1]
```diff
@@ -299,14 +299,14 @@ theorem map_smulₛₗ₂ (f : E →SL[σ₁₃] F →SL[σ₂₃] G) (c : R) (x
...
-def toLinearMap₁₂ (L : E →SL[σ₁₃] F →SL[σ₂₃] G) : E →ₛₗ[σ₁₃] F →ₛₗ[σ₂₃] G :=
-  (coeLMₛₗ σ₂₃).comp L.toLinearMap
-
-@[simp] lemma toLinearMap₁₂_apply (L : E →SL[σ₁₃] F →SL[σ₂₃] G) (v : E) (w : F) :
-    L.toLinearMap₁₂ v w = L v w := rfl
+@[simps apply]
+def toLinearMap₁₂ : (E →SL[σ₁₃] F →SL[σ₂₃] G) →ₗ[𝕜₃] (E →ₛₗ[σ₁₃] F →ₛₗ[σ₂₃] G) :=
+  { toFun L := (coeLMₛₗ σ₂₃).comp L.toLinearMap
+    map_add' _ _ := by ext; rfl
+    map_smul' _ _ := by ext; rfl}
```
Comment (themathqueen) [inline Mathlib/Topology/Algebra/Module/Spaces/ContinuousLinearMap.lean]:
```suggestion
def toLinearMap₁₂ : (E →SL[σ₁₃] F →SL[σ₂₃] G) →ₗ[𝕜₃] (E →ₛₗ[σ₁₃] F →ₛₗ[σ₂₃] G) where
  toFun L := (coeLMₛₗ σ₂₃).comp L.toLinearMap
  map_add' _ _ := by ext; rfl
  map_smul' _ _ := by ext; rfl
```

File: Mathlib/Topology/Algebra/Module/Spaces/ContinuousLinearMap.lean [hunk 2]
```diff
@@ -299,14 +299,14 @@ theorem map_smulₛₗ₂ (f : E →SL[σ₁₃] F →SL[σ₂₃] G) (c : R) (x
...
 
 lemma toLinearMap₁₂_injective :
-    (toLinearMap₁₂ (E := E) (F := F) (G := G) (σ₁₃ := σ₁₃) (σ₂₃ := σ₂₃)).Injective := by
+    Function.Injective (toLinearMap₁₂ (E := E) (F := F) (G := G) (σ₁₃ := σ₁₃) (σ₂₃ := σ₂₃)) := by
```
Comment (themathqueen) [inline Mathlib/Topology/Algebra/Module/Spaces/ContinuousLinearMap.lean]: Does this work?

```suggestion
    (toLinearMap₁₂ (E := E) (F := F) (G := G) (σ₁₃ := σ₁₃) (σ₂₃ := σ₂₃) : _ → _).Injective := by
```

File: Mathlib/Topology/Algebra/Module/Spaces/ContinuousLinearMap.lean [hunk 3]
```diff
@@ -299,14 +299,14 @@ theorem map_smulₛₗ₂ (f : E →SL[σ₁₃] F →SL[σ₂₃] G) (c : R) (x
     f (c • x) y = σ₁₃ c • f x y := by rw [f.map_smulₛₗ, smul_apply]
 
 /-- Send a continuous sesquilinear map to an abstract sesquilinear map (forgetting continuity). -/
-def toLinearMap₁₂ (L : E →SL[σ₁₃] F →SL[σ₂₃] G) : E →ₛₗ[σ₁₃] F →ₛₗ[σ₂₃] G :=
-  (coeLMₛₗ σ₂₃).comp L.toLinearMap
-
-@[simp] lemma toLinearMap₁₂_apply (L : E →SL[σ₁₃] F →SL[σ₂₃] G) (v : E) (w : F) :
-    L.toLinearMap₁₂ v w = L v w := rfl
+@[simps apply]
```
Comment (themathqueen) [inline Mathlib/Topology/Algebra/Module/Spaces/ContinuousLinearMap.lean]: I don't think `apply` here will be the same as the one we had before.

File: Mathlib/Analysis/Fourier/FourierTransformDeriv.lean [hunk 4]
```diff
@@ -511,7 +511,9 @@ theorem contDiff_fourierIntegral {N : ℕ∞}
   · exact (hasFTaylorSeriesUpTo_fourierIntegral' L hf h'f.1).contDiff
   · have : fourierIntegral 𝐞 μ L.toLinearMap₁₂ f = 0 := by
       ext w; simp [fourierIntegral, integral, h'f]
-    simpa [this] using! contDiff_const
+    rw [this]
+    exact contDiff_const
```
Comment (themathqueen) [inline Mathlib/Analysis/Fourier/FourierTransformDeriv.lean]: what happened here?

File: Mathlib/Analysis/Fourier/FourierTransformDeriv.lean [hunk 5]
```diff
@@ -511,7 +511,9 @@ theorem contDiff_fourierIntegral {N : ℕ∞}
...
+
```
Comment (themathqueen) [inline Mathlib/Analysis/Fourier/FourierTransformDeriv.lean]:
```suggestion
```

File: Mathlib/Topology/Algebra/Module/Spaces/ContinuousLinearMap.lean (hunk 3 above)
Comment (mpacholski) [reply Mathlib/Topology/Algebra/Module/Spaces/ContinuousLinearMap.lean]: you're right, as I checked with @[simp?] the generated lemma is
```lean
@[simp] lemma toLinearMap₁₂_apply (L : E →SL[σ₁₃] F →SL[σ₂₃] G) :
  toLinearMap₁₂ L = coeLMₛₗ σ₂₃ ∘ₛₗ ↑L
```
I reinstated the old lemma.

File: Mathlib/Analysis/Fourier/FourierTransformDeriv.lean (hunk 4 above)
Comment (mpacholski) [reply Mathlib/Analysis/Fourier/FourierTransformDeriv.lean]: When I replaced `_apply` lema with `@[simps]` annotations it broke this proof (and some other). I was trying to fix them, but with the lemma reinstated, it's no longer needed.

**Comment by mpacholski** [comment]
Having reinstated `_apply` lemma as it was, and removing `@[simps]` annotations, now the theorem theorem [MeasureTheory.iteratedFDeriv_charFun](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Measure/CharacteristicFunction/TaylorExpansion.html#MeasureTheory.iteratedFDeriv_charFun) breaks. At this line
```lean
set_option backward.isDefEq.respectTransparency false in
theorem iteratedFDeriv_charFun {n : ℕ} {t : E} (hint : MemLp id n μ) (x : Fin n → E) :
    iteratedFDeriv ℝ n (charFun μ) t x = I ^ n * ∫ y, (∏ i, ⟪y, x i⟫) * exp (⟪y, t⟫ * I) ∂μ := by
...
  rw [h, iteratedFDeriv_fourierIntegral _ hint' (by fun_prop) le_rfl]
...
```
If I remove `set_option backward.isDefEq.respectTransparency false in`, however it works. Is that acceptable? I don't know why this option should be there in the first place.

File: Mathlib/Analysis/Fourier/FourierTransformDeriv.lean (hunk 5 above)
Comment (mpacholski) [reply Mathlib/Analysis/Fourier/FourierTransformDeriv.lean]: done

**Comment by mpacholski** [comment]
-awaiting-author

File: Mathlib/Topology/Algebra/Module/Spaces/ContinuousLinearMap.lean [hunk 6]
```diff
@@ -299,14 +299,16 @@ theorem map_smulₛₗ₂ (f : E →SL[σ₁₃] F →SL[σ₂₃] G) (c : R) (x
...
 
 /-- Send a continuous sesquilinear map to an abstract sesquilinear map (forgetting continuity). -/
-def toLinearMap₁₂ (L : E →SL[σ₁₃] F →SL[σ₂₃] G) : E →ₛₗ[σ₁₃] F →ₛₗ[σ₂₃] G :=
-  (coeLMₛₗ σ₂₃).comp L.toLinearMap
+def toLinearMap₁₂ : (E →SL[σ₁₃] F →SL[σ₂₃] G) →ₗ[𝕜₃] (E →ₛₗ[σ₁₃] F →ₛₗ[σ₂₃] G) where
+  toFun L := (coeLMₛₗ σ₂₃).comp L.toLinearMap
+  map_add' _ _ := by ext; rfl
+  map_smul' _ _ := by ext; rfl
 
 @[simp] lemma toLinearMap₁₂_apply (L : E →SL[σ₁₃] F →SL[σ₂₃] G) (v : E) (w : F) :
```
Comment (themathqueen) [inline Mathlib/Topology/Algebra/Module/Spaces/ContinuousLinearMap.lean]: how about we rename this to `_apply_apply_apply` and add `@[simps apply]` to the definition? (oh and remove the simp here)?
```suggestion
lemma toLinearMap₁₂_apply_apply_apply (L : E →SL[σ₁₃] F →SL[σ₂₃] G) (v : E) (w : F) :
```

Comment (mpacholski) [reply Mathlib/Topology/Algebra/Module/Spaces/ContinuousLinearMap.lean]: If I apply the suggested change, `Mathlib/Analysis/Fourier/FourierTransformDeriv` breaks at:
```lean
theorem contDiff_fourierIntegral {N : ℕ∞}
    (hf : ∀ (n : ℕ), n ≤ N → Integrable (fun v ↦ ‖v‖ ^ n * ‖f v‖) μ) :
    ContDiff ℝ N (fourierIntegral 𝐞 μ L.toLinearMap₁₂ f) := by
  ...
    simpa [this] using! contDiff_const
```
with error 
```
typeclass instance problem is stuck
  NormedSpace ?m.187 ?m.189
```
It works if I change the last line to
```lean
    rw [this]; exact contDiff_const
```

Otherwise, it only works if I remove `@[simps apply]` from the definition and leave `@[simp]` at `toLinearMap₁₂_apply_apply_apply`. Shall we do it this way? If we do, do we want to keep the long name `_apply_apply_apply`, when `_apply` is free? (The old name is already in use in a couple of places.)

**Comment by mpacholski** [comment]
I have a good argument against `_apply_apply_apply`. There is a very similar situation occurring in `Mathlib/LinearAlgebra/TensorProduct/Basic.lean`:

```lean
variable (M N P₂ σ₁₂) in
/-- Linearly constructing a semilinear map `M ⊗ N → P` given a bilinear map `M → N → P`
with the property that its composition with the canonical bilinear map `M → N → M ⊗ N` is
the given bilinear map `M → N → P`. -/
def uncurry : (M →ₛₗ[σ₁₂] N →ₛₗ[σ₁₂] P₂) →ₗ[R₂] M ⊗[R] N →ₛₗ[σ₁₂] P₂ where
  toFun := lift
  map_add' f g := by ext; rfl
  map_smul' _ _ := by ext; rfl

@[simp]
theorem uncurry_apply (f : M →ₛₗ[σ₁₂] N →ₛₗ[σ₁₂] P₂) (m : M) (n : N) :
    uncurry σ₁₂ M N P₂ f (m ⊗ₜ n) = f m n := rfl
```

The pattern is: they don't use `@[simp apply]` at definition and add a lemma called `_apply`, which does have `@[simp]`. I think we should follow this pattern.

File: Mathlib/Topology/Algebra/Module/Spaces/ContinuousLinearMap.lean [hunk 7]
```diff
@@ -299,14 +299,16 @@ theorem map_smulₛₗ₂ (f : E →SL[σ₁₃] F →SL[σ₂₃] G) (c : R) (x
     f (c • x) y = σ₁₃ c • f x y := by rw [f.map_smulₛₗ, smul_apply]
 
 /-- Send a continuous sesquilinear map to an abstract sesquilinear map (forgetting continuity). -/
-def toLinearMap₁₂ (L : E →SL[σ₁₃] F →SL[σ₂₃] G) : E →ₛₗ[σ₁₃] F →ₛₗ[σ₂₃] G :=
-  (coeLMₛₗ σ₂₃).comp L.toLinearMap
+def toLinearMap₁₂ : (E →SL[σ₁₃] F →SL[σ₂₃] G) →ₗ[𝕜₃] E →ₛₗ[σ₁₃] F →ₛₗ[σ₂₃] G where
+  toFun L := (coeLMₛₗ σ₂₃).comp L.toLinearMap
+  map_add' _ _ := by rfl
+  map_smul' _ _ := by rfl
```
Comment (themathqueen) [inline Mathlib/Topology/Algebra/Module/Spaces/ContinuousLinearMap.lean]:
```suggestion
  map_add' _ _ := rfl
  map_smul' _ _ := rfl
```

**Comment by themathqueen** [comment]
> I have a good argument against `_apply_apply_apply` ...

What you can do is write `@[simps apply -isSimp]` so that it won't be a simp lemma. I just think it might be useful to have, maybe.

But, then again, maybe we should just keep it as is 🤔

**Comment by mpacholski** [comment]
@themathqueen I have followed you suggestion, and changed the name to `toLinearMap₁₂_apply_apply_apply` with `@[simps -isSimp apply]` added to the definition. I also updated all the occurrences of `toLinearMap₁₂_apply`. The PR now builds and passes all tests.

**Review by themathqueen — COMMENTED** [review]
Thanks!

To other reviewers: I know the `_apply_apply_apply` is longer, but it's more accurate, so I feel like this is fine?

maintainer merge

**Review by j-loreaux — COMMENTED** [review]
bors merge
